US06372742B1
5-chloro-N-(p-tolylsulfonyl)-isatin was prepared by the method of Example 3, Step B from 5-chloroisatin and p-tolylsulfonyl chloride.

reactant | 5-chloroisatin | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | p-tolylsulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | 5-chloro-N-(p-tolylsulfonyl)-isatin | ClC=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)=O)=O | C15H10ClNO4S
